US09403807B2
Step C: 2-(4-Chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butan-1-ol
To a suspension of LiBH4 (22 mg) in THF (3 mL) was added MeOH (32 mg, 5.43 mmol) and a solution of methyl 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butanoate (105 mg) in THF (3 mL). The mixture was stirred at room temperature for 2 h. The solution was quenched with saturated ammonium chloride solution, and extracted with ethyl acetate (20 mL). The organic layer was washed with brine, dried over sodium sulfate, and evaporated. The residue was purified by chromatography on silica gel (25-35% ethyl acetate in hexanes) to afford the title compound as a pale yellow solid. LC/MS m/z=393.2 [M+H]+.

reactant | LiBH4 | 22 mg | [Li+].[BH4-]
reactant | MeOH | 5.43 mmol, 32 mg | CO | CH4O
reactant | methyl 2-(4-chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butanoate | 105 mg | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C25H25ClN2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(4-Chlorophenyl)-2-(4-(2,5-dimethyl-1H-pyrrol-1-yl)-1H-indol-1-yl)butan-1-ol | ClC1=CC=C(C=C1)C(CO)(CC)N1C=CC2=C(C=CC=C12)N1C(=CC=C1C)C | C24H25ClN2O
